US06645953B2
To a solution of 3βhydroxy-4,4-dimethylcholesta-5,16-diene (220 mg, 0.5 mmol) in pyridine (1.5 mL) at ice bath temperature was added benzoyl chloride (0.1 mL) and the whole stirred for 1.5 hours. Concentration under reduced pressure and purification of the residue by flash chromatography gave 3β-benzoyloxy-4,4-dimethylcholesta-5,16-diene (300 mg).

reactant | 3βhydroxy-4,4-dimethylcholesta-5,16-diene | 0.5 mmol, 220 mg | O[C@@H]1C(C2=CC[C@H]3[C@@H]4CC=C([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(C)C | C29H48O
reactant | benzoyl chloride | 0.1 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | 3β-benzoyloxy-4,4-dimethylcholesta-5,16-diene | 300 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1C(C2=CC[C@H]3[C@@H]4CC=C([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)(C)C | C36H52O2
